* E:\Personal\Projects\ACDC150V24\01_Requirments\SIMULATION\Feedback_circuit.asc
XU1 N007 0 N006 TL431
XU2 0 N003 DI_MMSZ5240B
V1 N004 0 PULSE(0 15 0.5 5 5 5 5 5)
R1 N004 N007 35.2k
R2 N007 0 4.12k
R3 N004 N003 1.5k
R4 N003 N005 1k
R5 N005 N006 1k
XU3 N005 N006 N008 N001 NC_01 CNY17 Igain=.724m
C1 N007 N006 43p
C2 N007 N009 27n
R6 N009 N006 93..1k
V2 N002 N001 5
R7 N002 N008 20k
C3 N008 N001 200p
C4 N006 N001 1p
.tran 20
.lib C:\Users\z004ftpx\Downloads\MMSZ5240B.spice.txt
.lib CNY17.sub
.lib E:\Personal\Projects\ACDC150V24\01_Requirments\SIMULATION\tl431.mod
.backanno
.end
